US07109190B2
(7R)-7-[(Z) 2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]-acetamido]-3-[1,3,4-thiadiazol-2-ylthio]-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester
To a suspension of 1,3,4-thiadiazole-2-thiol (0.5 g, 0.004 mol) in acetonitile (40 mL) was added sodium hydride (0.2 g, 0.0043 mol) and the mixture was stirred for 1 hour at room temperature. To the resulting suspension was added (7R)-7-[(Z)-2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]-acetamido]-3-chloro-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester (2.6 g, 0.003 mol), and the mixture was stirred for 48 hours. The solvent was evaporated and the residue was partitioned between water (50 mL) and ethyl acetate (50 mL). The organic layer was dried over anhydrous MgSO4, filtered and evaporated. The resulting solid was treated with diethyl ether (50 mL), and the solid that formed was filtered and dried to give 2.1 g of crude product. The crude product was purified by chromatography on silica gel, eluting with a gradient from ethyl acetate:hexane 1:2 to neat ethyl acetate. The title product was obtained (1.1 g.)

reactant | 1,3,4-thiadiazole-2-thiol | 0.004 mol, 0.5 g | S1C(=NN=C1)S | C2H2N2S2
reactant | sodium hydride | 0.0043 mol, 0.2 g | [H-].[Na+]
reactant | (7R)-7-[(Z)-2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]-acetamido]-3-chloro-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester | 0.003 mol, 2.6 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C([C@@H](C2CCC1Cl)NC(\C(=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=1N=C(SC1Cl)N)=O)=O | C45H35Cl2N5O5S
solvent | acetonitile | 40 mL | C(C)#N | C2H3N
product | (7R)-7-[(Z) 2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]-acetamido]-3-[1,3,4-thiadiazol-2-ylthio]-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C([C@@H](C2CCC1SC=1SC=NN1)NC(\C(=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=1N=C(SC1Cl)N)=O)=O | C47H36ClN7O5S3
